US08803420B2
A flask was charged with 2.7 g of fluoranthene-3-boronic acid, 2.0 g of 6-bromo-2-naphthol, 0.31 g of tetrakis(triphenylphosphine)palladium(0), 27 mL of 1,2-dimethoxyethane, and 13.5 mL of a 2 M sodium carbonate aqueous solution in an argon atmosphere. The mixture was heat refluxed with stirring for 4 hours. After cooling the reaction solution to room temperature, 2 M hydrochloric acid was added to the reaction solution so that the reaction solution had a pH in the acidic region. The reaction solution was then extracted with dichloromethane. After removing the aqueous phase, the organic phase was washed with a saturated sodium chloride solution, and dried over anhydrous sodium sulfate. After filtering the organic phase, the solvent was evaporated under reduced pressure. The residue was dispersed and washed in dichloromethane to obtain 2.75 g of the target 6-(fluoranthen-3-yl)-2-naphthol (yield: 89%).

reactant | fluoranthene-3-boronic acid | 2.7 g | C1=CC(=C2C=CC=C3C4=CC=CC=C4C1=C23)B(O)O | C16H11BO2
reactant | 6-bromo-2-naphthol | 2.0 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 2 M | Cl | ClH
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.31 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,2-dimethoxyethane | 27 mL | COCCOC | C4H10O2
product | 6-(fluoranthen-3-yl)-2-naphthol | yield: 89% | C1=CC(=C2C=CC=C3C4=CC=CC=C4C1=C23)C=2C=C3C=CC(=CC3=CC2)O | C26H16O
